US07312330B2
D. N-(4-tert-butylphenyl)-5,6,7,8-tetrahydro-2-(methoxymethyl)pyrido[3,4-d]pyrimidin-4-amine
The title compound was prepared using the general procedure set forth in Example 3.A. using N-(4-tert-butylphenyl)-7-benzyl-5,6,7,8-tetrahydro-2-(methoxymethyl)pyrido[3,4-d]pyrimidin-4-amine (0.453 g, 1.09 mmol), ammonium formate (0.69 g, 10.87 mmol), palladium, 10% wt. on activated carbon (100 mg) and MeOH (15 mL). 0.334 g (94%) Of the title compound was obtained as a white foam.

reactant | N-(4-tert-butylphenyl)-7-benzyl-5,6,7,8-tetrahydro-2-(methoxymethyl)pyrido[3,4-d]pyrimidin-4-amine | 1.09 mmol, 0.453 g | C(C)(C)(C)C1=CC=C(C=C1)NC=1C2=C(N=C(N1)COC)CN(CC2)CC2=CC=CC=C2 | C26H32N4O
reactant | ammonium formate | 10.87 mmol, 0.69 g | C(=O)[O-].[NH4+]
catalyst | palladium | [Pd] | Pd
solvent | MeOH | 15 mL | CO | CH4O
product | N-(4-tert-butylphenyl)-5,6,7,8-tetrahydro-2-(methoxymethyl)pyrido[3,4-d]pyrimidin-4-amine | 0.334 g, 94% | C(C)(C)(C)C1=CC=C(C=C1)NC=1C2=C(N=C(N1)COC)CNCC2 | C19H26N4O
